US07498325B2
1-[N2—[N-[[[2-(2,5-dimethoxyphenyl)ethyl]amino]carbonyl]-3,5 dibromo-D,L-tyrosyl]-L-lysyl]-4-(4-pyridinyl)-piperazine (No. 3)
A mixture of 0.8 g (0.84 mmol) of 1-[N2—[N-[[[2-(2,5-dimethoxyphenyl)ethyl]amino]carbonyl]-3,5-dibromo-D-tyrosyl]-N6-[(phenylmethoxy)carbonyl]-L-lysyl]-4-(4-pyridinyl)-piperazine, 50 ml of glacial acetic acid, 25 ml of a 33% solution of hydrogen bromide in glacial acetic acid and 2 ml of anisole was stirred for 12 hours at ambient temperature. The reaction mixture was stirred into diethylether and the resulting precipitate was suction filtered. The solid residue was purified by column chromatography (MN-silica gel 60, Macherey-Nagel, 70-230 mesh ASTM, eluant:ethyl acetate/methanol/conc. aqueous ammonia=8/2/0.2 (v/v/v)). 0.3 g (44% of theory) of the desired product was obtained as an amorphous solid.

reactant | 1-[N2—[N-[[[2-(2,5-dimethoxyphenyl)ethyl]amino]carbonyl]-3,5-dibromo-D-tyrosyl]-N6-[(phenylmethoxy)carbonyl]-L-lysyl]-4-(4-pyridinyl)-piperazine | 0.84 mmol, 0.8 g | COC1=C(C=C(C=C1)OC)CCNC(=O)N[C@H](CC1=CC(=C(C(=C1)Br)O)Br)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1CCN(CC1)C1=CC=NC=C1 | C43H51Br2N7O8
reactant | hydrogen bromide | Br | BrH
reactant | diethylether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-[N2—[N-[[[2-(2,5-dimethoxyphenyl)ethyl]amino]carbonyl]-3,5 dibromo-D,L-tyrosyl]-L-lysyl]-4-(4-pyridinyl)-piperazine | COC1=C(C=C(C=C1)OC)CCNC(=O)NC(CC1=CC(=C(C(=C1)Br)O)Br)C(=O)N[C@@H](CCCCN)C(=O)N1CCN(CC1)C1=CC=NC=C1 | C35H45Br2N7O6
